US04707499
4-ethyltetrahydro-5-imino-N-(1-methylethyl)-4-phenyl-2-furanmethanamine
A solution of α-ethyl-α-phenyloxiranepropanenitrile and isopropylamine in ethanol is placed in a pressure bottle and heated overnight in a steam bath. After cooling, the bottle is opened and the solvent removed in vacuo. Solvent-solvent extraction by the method described in Example 4 yields the title compound.

reactant | α-ethyl-α-phenyloxiranepropanenitrile | C(C)C(C#N)(CC1OC1)C1=CC=CC=C1 | C13H15NO
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | ethanol | C(C)O | C2H6O
product | 4-ethyltetrahydro-5-imino-N-(1-methylethyl)-4-phenyl-2-furanmethanamine | C(C)C1(CC(OC1=N)CNC(C)C)C1=CC=CC=C1 | C16H24N2O
